US05449779
Preparation of N,N'-bis(butoxycarbonyl)-N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,2-ethanediamine.
120.2 g (0.88 mol) of butyl chlorocarbonate are reacted as described in Example 1 with 135.4 g (0.4 mol) of N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,2-ethanediamine dissolved in 410 ml of water.

reactant | butyl chlorocarbonate | 0.88 mol, 120.2 g | C(OCCCC)(=O)Cl | C5H9ClO2
reactant | N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,2-ethanediamine | 0.4 mol, 135.4 g | CC1(NC(CC(C1)NCCNC1CC(NC(C1)(C)C)(C)C)(C)C)C | C20H42N4
solvent | water | 410 ml | O | H2O
product | N,N'-bis(butoxycarbonyl)-N,N'-bis(2,2,6,6-tetramethyl-4-piperidyl)-1,2-ethanediamine | C(CCC)OC(=O)N(CCN(C1CC(NC(C1)(C)C)(C)C)C(=O)OCCCC)C1CC(NC(C1)(C)C)(C)C | C30H58N4O4
